US09085583B2
To a solution of 2-iodopyridin-3-amine (500 mg, 2.27 mmol), cuprous oxide (32 mg, 0.23 mmol), cesium carbonate (740 mg, 2.27 mmol) in N,N-dimethylformamide (100 mL) was added methyl methacrylate (290 mg, 2.5 mmol). The reaction solution was stirred at 110° C. for 12 hours. Then the reaction mixture was cooled with an ice bath and sodium hydride (60% in oil, 91 mg, 2.27 mmol) was added under. The resulting mixture was stirred at room temperature for half an hour. Then (1-bromoethyl)benzene (418 mg, 2.27 mmol) was added. Then the mixture was stirred at room temperature for 1 hour. After the reaction was completed, it was quenched with water (100 mL), and extracted with ethyl acetate (50 mL×3). The combined organic phase were washed with water (20 mL×3) and brine (20 mL), dried over anhydrous sodium sulfate, concentrated and purified by column chromatography (silica gel, petroleum ether/ethyl acetate=6:1) to give methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylate (80 mg, 12%). LRMS (M+H+) m/z: calcd 295.14. found 295.

reactant | 2-iodopyridin-3-amine | 2.27 mmol, 500 mg | IC1=NC=CC=C1N | C5H5IN2
reactant | cesium carbonate | 2.27 mmol, 740 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl methacrylate | 2.5 mmol, 290 mg | C(C(=C)C)(=O)OC | C5H8O2
reactant | sodium hydride | 2.27 mmol, 91 mg | [H-].[Na+]
reactant | (1-bromoethyl)benzene | 2.27 mmol, 418 mg | BrC(C)C1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylate | 80 mg, 12% | CC1=C(C2=NC=CC=C2N1C(C)C1=CC=CC=C1)C(=O)OC | C18H18N2O2
